US08314098B2
(Step 2): 5-Chloro-2-methyl-7-morpholin-4-yl-pyrazolo[1,5-a]pyrimidine
There was dissolved, in 1,4-dioxane (20 mL), 5,7-dichloro-2-methyl-pyrazolo-[1,5-a]pyrimidine (1.00 g, 4.95 mM), then morpholine (863 μL, 9.90 mM) was added to the solution and the mixture was stirred at room temperature for one hour. The solvent was then distilled off from this reaction mixture, the resulting residue was diluted with water and the mixture was extracted with methylene chloride. The resulting extracts were combined, dried over anhydrous sodium sulfate, the solvent was distilled off and the resulting solid was washed with methanol to thus give the title compound (927 mg, yield: 74%).

reactant | 5,7-dichloro-2-methyl-pyrazolo-[1,5-a]pyrimidine | 4.95 mM, 1.00 g | ClC1=NC=2N(C(=C1)Cl)N=C(C2)C | C7H5Cl2N3
reactant | morpholine | 9.90 mM, 863 μL | N1CCOCC1 | C4H9NO
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | 5-Chloro-2-methyl-7-morpholin-4-yl-pyrazolo[1,5-a]pyrimidine | 927 mg, yield: 74% | ClC1=NC=2N(C(=C1)N1CCOCC1)N=C(C2)C | C11H13ClN4O
